US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline (200 mg, 0.57 mmol), potassium carbonate (106 mg, 0.77 mmol) and 7-hydroxyquinoline (111 mg, 0.76 mmol) in DMF (7 ml) was stirred at 100° C. for 5 hours and allowed to cool to ambient temperature. The reaction mixture was treated with 1.0 N aqueous sodium hydroxide solution (40 ml) and allowed to stir at ambient temperature for a few minutes. The reaction mixture was extracted 4 times with ethyl acetate and the organic extracts washed with water and brine. The organic extracts were dried over magnesium sulphate, filtered and the solvent removed by evaporation. The residue was triturated with ether/isohexane, filtered and dried to give 6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)4-(quinolin-7-yloxy)quinazoline (102 mg, 39%).

reactant | 4-chloro-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline | 0.57 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C17H23ClN4O2
reactant | potassium carbonate | 0.77 mmol, 106 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-hydroxyquinoline | 0.76 mmol, 111 mg | OC1=CC=C2C=CC=NC2=C1 | C9H7NO
reactant | sodium hydroxide | 1.0 N, 40 ml | [OH-].[Na+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)4-(quinolin-7-yloxy)quinazoline | 102 mg, 39% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCN(CC1)C)OC1=CC=C2C=CC=NC2=C1 | C26H29N5O3
